US08026372B2
H-Lys(Boc)-OH
A solution of di-t-butyl dicarbonate (13.6 g, 62.3 mmol) in THF (31 mL) was treated with benzotriazole (8.0 g, 67.2 mmol) and dimethylaminopyridine (25 mg, 0.21 mmol). After 3 hours the mixture was slowly poured, stirring at 0° C. and maintaining pH 12 with aqueous sodium hydroxide, into a solution of L-lysine (10.0 g, 68.4 mmol) in water (80 mL) at pH 12. After further 2 hours most of the THF was removed at reduced pressure. The remaining water solution was extracted 3 times with ethyl acetate to recover 46% of the initial benzotriazole. The solution was then treated with hydrochloric acid to pH 5.6, obtaining the precipitation of a solid, which was stirred overnight and filtered. The product (17.7 g, 93%) is the complex 1/2 benzotriazole with H-Lys(Boc)-OH (1H-NMR, 13C-NMR, LC-MS), which can be used directly or purified by sublimation (140° C., 0.3 mbar, 3 hours) to remove the benzotriazole (quantitative). The product contains 7% lysine and 4% Boc-Lys-OH.

reactant | di-t-butyl dicarbonate | 62.3 mmol, 13.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzotriazole | 67.2 mmol, 8.0 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | dimethylaminopyridine | 0.21 mmol, 25 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | L-lysine | 68.4 mmol, 10.0 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
solvent | THF | 31 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
product | H-Lys(Boc)-OH | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
